US07629379B2
A mixture of diethyl (9-anthracyl)-N-benzylamine-methylphosphonate (0.44 g) and Analar concentrated hydrochloric acid (10 ml) was stirred at gentle reflux for 5 h. Cooled, the solvent was then removed under reduced pressure. Water (10 ml) was added and the solvent was removed under reduced pressure. This was repeated a further four times to give (9-anthracyl)-N-benzylamine-methylphosphonic acid as a white solid (0.4 g), m.p. 168-170° C., λex (EtOH, nm) 332, λem 425.

reactant | diethyl (9-anthracyl)-N-benzylamine methylphosphonate | 0.44 g | C(C)C(C1=CC=CC=C1)(NC=1C2=CC=CC=C2C=C2C=CC=CC12)CC.CP([O-])([O-])=O
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | (9-anthracyl)-N-benzylamine methylphosphonic acid | 0.4 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)NCC1=CC=CC=C1.CP(O)(O)=O | InChI=1S/C21H17N.CH5O3P/c1-2-8-16(9-3-1)15-22-21-19-12-6-4-10-17(19)14-18-11-5-7-13-20(18)21;1-5(2,3)4/h1-14,22H,15H2;1H3,(H2,2,3,4)
